US07238689B2
43.5 g (136.1 mmoles) of 4-bromomethyl-1-tert-butyl-5-chloro-3-trifluoromethyl-1H-pyrazole was added to a solution of 21.8 g of sodium hydrosulfide hydrate (purity: 70%, 272.2 mmoles) dissolved in 300 ml of N,N-dimethylformamide. The mixture was stirred at room temperature overnight to give rise to a reaction. After the completion of the reaction, the reaction mixture was poured into water, followed by extraction with diethyl ether. The resulting organic layer was washed with an aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove the solvent contained therein, to obtain 32.3 g (yield: 87.0%) of (1-tert-butyl-5-chloro-3-trifluoromethyl-1H-pyrazol-4-yl)-methanethiol.

reactant | 4-bromomethyl-1-tert-butyl-5-chloro-3-trifluoromethyl-1H-pyrazole | 136.1 mmoles, 43.5 g | BrCC=1C(=NN(C1Cl)C(C)(C)C)C(F)(F)F | C9H11BrClF3N2
reactant | sodium hydrosulfide hydrate | 272.2 mmoles, 21.8 g | O.[SH-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | (1-tert-butyl-5-chloro-3-trifluoromethyl-1H-pyrazol-4-yl)-methanethiol | 32.3 g, yield: 87.0% | C(C)(C)(C)N1N=C(C(=C1Cl)CS)C(F)(F)F | C9H12ClF3N2S
